US20010012819A1
Preparation of Ferrocenium Salt Modified Fluoromica Aerogel
In a 1 L Erlenmeyer Flask, 10 g of fluoromica (NaMg2.5(Si4O10)F2, Coop Me-100, <0.2 percent weight loss below 800° C.) were dispersed in 600 mL of deionized water at ambient conditions for one hour. The white fluoromica was observed to swell and disperse in water yielding a semi-transparent slurry. In a separate flask, 2.5 g of ferrocene (Aldrich) were added to 20 mL of concentrated sulfuric acid and the resulting mixture was held under ambient conditions for one hour, producing a navy blue solution. This solution was diluted with 200 mL of deionized water, and then mixed with fluoromica slurry under magnetic stirring. Large blue agglomerates were observed. The mixture was stirred at room temperature for 30 minutes, then filtered, yielding a blue gel. The blue gel was washed by resuspending in 800 mL of deionized water for 30 minutes, and was recovered by filtration. This product was then dispersed in 500 mL of deionized water and freeze-dried. The dried, fluoromica lamellar aerogel was held on a high vacuum line (<10−6 torr) at 150 ° C. overnight.

reactant | ferrocene | 2.5 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 600 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | Ferrocenium | C1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C5H6.C5H5.Fe/c2*1-2-4-5-3-1;/h1-4H,5H2;1-5H;/q;-1;+2
